US07417142B2
meso-Chiral Porphyrin 15d
The general procedure was used to couple 5,15-dibromo-10,20-di(3,5-di-tert-butylphenyl)porphyrin (0.043 g, 0.05 mmol) with (+)-dihydrocholesterol (0.1556 g, 0.4 mmol), using Pd2(dba)3 (0.0046 g, 0.005 mmol) and DPEphos (0.0107 g, 0.02 mmol) in the presence of Cs2CO3 (0.0652 g, 0.2 mmol). The reaction was conducted in toluene (5 mL) at 100° C. for 18 h. The title compound was isolated by flash column chromatography (silica gel, ethyl acetate:hexanes (v/v)=1:20) as purple solids (0.059 g, 79%). 1H NMR (300 MHz, CDCl3): δ 9.46 (d, J=4.8 Hz, 4H), 8.87 (d, J=4.8 Hz, 4H), 8.09 (d, J=2.1 Hz, 4H), 7.81 (t, J=1.8 Hz, 2H), 5.01 (m, 2H), 2.26-0.61 (m, 92H), 1.57 (s, 36H), −2.48 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 148.9, 140.8, 135.8, 130.6, 129.9, 127.4, 121.0, 120.8, 91.6, 56.3, 56.1, 54.2, 44.9, 42.5, 39.9, 39.5, 37.0, 36.1, 35.8, 35.7, 35.4, 35.0, 31.8, 29.3, 28.7, 28.2, 28.0, 24.1, 23.8, 22.8, 22.5, 21.9, 18.6, 12.6, 12.0. UV-vis (CHCl3, λmax, nm): 420, 521, 560, 604, 661. HRMS-MALDI ([M+H]+): calcd for C102H147N4O2, 1460.1519, found 1460.1522 with an isotope distribution pattern that is the same as calculated one.

reactant | 5,15-dibromo-10,20-di(3,5-di-tert-butylphenyl)porphyrin | 0.05 mmol, 0.043 g | BrC=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)N3)Br)=N2)C2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C | C48H52Br2N4
reactant | DPEphos | 0.02 mmol, 0.0107 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | Cs2CO3 | 0.2 mmol, 0.0652 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.005 mmol, 0.0046 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Porphyrin | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C=CC(N1)=C2 | C20H14N4
